* Copyright 2023 GlobalFoundries PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*      http://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* Sources
Vin I 0 dc pulse(0 5 100p 1p 1p 100p 200p)
Vdd VDD 0 dc 5

* Main circuit
X1 I ZN VDD VDD 0 0 gf180mcu_fd_sc_mcu7t5v0__inv_1

* Temperature set
.temp 25
.options tnom=25

* Analyses
.control
tran 1p 200p
meas tran high_in FIND V(ZN) AT=100p
meas tran low_in  FIND V(ZN) AT=200p

wrdata inv/inv_simulated.csv {high_in} {low_in}

.endc

* Libraries calling
.include "../../../../design.spice"
.lib "../../../../sm141064.spice" typical

.SUBCKT gf180mcu_fd_sc_mcu7t5v0__inv_1 I ZN VDD VNW VPW VSS
xM_i_0 ZN I VSS VPW nfet_06v0 W=8.2e-07 L=6e-07
xM_i_1 ZN I VDD VNW pfet_06v0 W=1.22e-06 L=5e-07
.ENDS


.end
